US08629271B2
b) 9-((4-(2-(tert-Butyldimethylsilyloxy)ethyl)thiophen-2-yl)methyl)-1-oxa-4,9-diazaspiro[5.5]undecane
‘880’ Aqueous ammonia (1.5 mL) was added to stirred solution of 1-(9-((4-(2-(tert-butyldimethylsilyloxy)ethyl)thiophen-2-yl)methyl)-1-oxa-4,9-diazaspiro[5.5]undecan-4-yl)-2,2,2-trifluoroethanone (example 43, step a) (1.0 g) in methanol (5 mL). After 16 h the reaction mixture was evaporated to dryness. Acetonitrile was added, the solution evaporated to dryness in vacuo, and this process was repeated three times to give the subtitled compound as a white solid. Yield 0.78 g.

reactant | ammonia | 1.5 mL | N | H3N
reactant | 1-(9-((4-(2-(tert-butyldimethylsilyloxy)ethyl)thiophen-2-yl)methyl)-1-oxa-4,9-diazaspiro[5.5]undecan-4-yl)-2,2,2-trifluoroethanone | [Si](C)(C)(C(C)(C)C)OCCC=1C=C(SC1)CN1CCC2(CN(CCO2)C(C(F)(F)F)=O)CC1 | C23H37F3N2O3SSi
solvent | methanol | 5 mL | CO | CH4O
product | 9-((4-(2-(tert-Butyldimethylsilyloxy)ethyl)thiophen-2-yl)methyl)-1-oxa-4,9-diazaspiro[5.5]undecane | [Si](C)(C)(C(C)(C)C)OCCC=1C=C(SC1)CN1CCC2(CNCCO2)CC1 | C21H38N2O2SSi
